US05672611
A. 3-PIPERIDINYLACETIC ACID
3-Pyridylacetic acid hydrochloride (13 grams) (74.9 mmoles) was hydrogenated as described in Preparative Example 5A to give a mixture of unreacted 3-pyridylacetic acid and the title compound (76:24) (8.63 grams, MH+ 144).

reactant | 3-Pyridylacetic acid hydrochloride | 74.9 mmoles, 13 grams | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | 3-pyridylacetic acid | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
product | 3-PIPERIDINYLACETIC ACID | 8.63 grams | N1CC(CCC1)CC(=O)O | C7H13NO2
